US06303600B1
Methyl 2-hydroxy-4-methoxy-3-nitrobenzoate
A solution of methyl 4-methoxysalicylate (50 g) in glacial acetic acid (700 ml) was treated dropwise with concentrated nitric acid (50 ml) over 15 minutes. After stirring for 2 hours, then standing at room temperature for 18 hours, the mixture was treated with a further aliquot of concentrated nitric acid (10 ml) then stirred for 6 hours. The reaction mixture was diluted with ice then poured into water (1000 ml), then filtered. The solid was dried then subjected to flash chromatography on silica eluting with a mixture of toluene and dichloromethane (2:1, v/v) to give the title compound as a while solid, m.p. 185-187° C.

reactant | methyl 4-methoxysalicylate | 50 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 1000 ml | O | H2O
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-hydroxy-4-methoxy-3-nitrobenzoate | OC1=C(C(=O)OC)C=CC(=C1[N+](=O)[O-])OC | C9H9NO6
